US04382929
1-(3-Methyl-2-thienylmethyl)piperidine
A mixture of 3-methyl-2-thiophenecarboxaldehyde (20 g), formic acid (6 ml) and N-formyl piperidine (44.4 ml) was heated under reflux for 12 h. Water (50 ml) and 2 M hydrochloric acid (30 ml) were added; and the aqueous solution was washed with ether. The solution was basified to pH 10 with 2 M sodium hydroxide (30 ml) and extracted with ether. The organic extract was evaporated to give a brown oil which was distilled to afford the title compound as a colourless oil (11.8 g) b.p. 70°/0.4 mm. NMR (CDCl3) 2.9,d, (1H); 3.27,d, (1H); 6.48,s, (2H); 7.6,m, (4H); 7.83,s, (3H); ca. 8.5,m, (>6H).

reactant | 3-methyl-2-thiophenecarboxaldehyde | 20 g | CC1=C(SC=C1)C=O | C6H6OS
reactant | formic acid | 6 ml | C(=O)O | CH2O2
reactant | N-formyl piperidine | 44.4 ml | C(=O)N1CCCCC1 | C6H11NO
reactant | hydrochloric acid | 2 M, 30 ml | Cl | ClH
solvent | Water | 50 ml | O | H2O
product | 1-(3-Methyl-2-thienylmethyl)piperidine | 11.8 g | CC1=C(SC=C1)CN1CCCCC1 | C11H17NS
